US08022223B2
Step B: Preparation of 5-bromo-N-(4-(2-(5-methyl-1,3,4-oxadiazol-2-yl)ethyl)thiazol-2-yl)-3-phenoxypyridin-2-amine:
To a mixture of N′-acetyl-3-(2-(5-bromo-3-phenoxypyridin-2-ylamino)thiazol-4-yl)propanehydrazide (0.100 g, 0.210 mmol) in 5 mL acetonitrile was added POCl3 (0.0769 mL, 0.840 mmol) and the reaction was heated at 50° C. for 72 hours. The mixture was concentrated to dryness, diluted with water and extracted with CH2Cl2. The organic layer was dried over Na2SO4 and purified by preparative HPLC to give the title compound (0.029 g, 30.1% yield). 1H NMR (d6 DMSO) δ 2.50 (2, 3H), 3.00 (t, J=7.4 Hz, 2H), 3.17 (t, J=7.5 Hz, 2H), 6.76 (s, 1H), 7.11 (d, J=7.6 Hz, 2H), 7.21 (t, J=7.3 Hz, 1H), 7.40 (d, J=2.0 Hz, 1H), 7.44 (t, J=7.9 Hz, 2H), 8.22 (d, J=2.2 Hz, 1H), 10-99 (s, 1H).

reactant | N′-acetyl-3-(2-(5-bromo-3-phenoxypyridin-2-ylamino)thiazol-4-yl)propanehydrazide | 0.210 mmol, 0.100 g | C(C)(=O)NNC(CCC=1N=C(SC1)NC1=NC=C(C=C1OC1=CC=CC=C1)Br)=O | C19H18BrN5O3S
reactant | POCl3 | 0.840 mmol, 0.0769 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 5-bromo-N-(4-(2-(5-methyl-1,3,4-oxadiazol-2-yl)ethyl)thiazol-2-yl)-3-phenoxypyridin-2-amine | 0.029 g, 30.1% yield | BrC=1C=C(C(=NC1)NC=1SC=C(N1)CCC=1OC(=NN1)C)OC1=CC=CC=C1 | C19H16BrN5O2S
